US08071631B2
3,4-Dimethoxy-N-[5-(phenyl)-pyridine-2-yl]benzenesulfonamide
To a solution of 5-phenylpyridin-2-amine (340 mg, 2 mmol) in 10 mL of dry pyridine was added 3,4-dimethoxybenzenesulfonyl chloride (529 mg, 2.23 mmol). The solution was stirred at room temperature under Argon. After 19 h, the pyridine was removed in vacuo and flashed off with toluene, the solid residue was partitioned between EtOAc and 1M NaOH. The alkaline phase was made acidic and the solid was collected by filtration and dried in vacuo to give 511 mg of a solid. This was taken up in 5 mL of HOAc, diluted with 3 mL of water; crystallization took place to give 447 mg of a white crystalline product with mp 202-204° C.

reactant | 5-phenylpyridin-2-amine | 2 mmol, 340 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 2.23 mmol, 529 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-Dimethoxy-N-[5-(phenyl)-pyridine-2-yl]benzenesulfonamide | 511 mg | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=NC=C(C=C1)C1=CC=CC=C1 | C19H18N2O4S
